US06380215B1
A mixture of N-(3-pyridyl)-3(S)-(tert-butoxycarbonylamino)succinamic acid methyl ester (3.91 g) and 4N HCl in dioxane (3.36 ml) and PtO2 (0.39 g) in methanol (40 ml) was hydrogenated at atmospheric pressure for 2 hours. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo. The residue was recrystallized from diethyl ether to give N-(3-piperidyl)-3(S)-(tert-butoxycarbonylamino)succinamic acid methyl ester hydrochloride (3.67 g).

reactant | N-(3-pyridyl)-3(S)-(tert-butoxycarbonylamino)succinamic acid methyl ester | 3.91 g | COC(C[C@@H](C(=O)NC=1C=NC=CC1)NC(=O)OC(C)(C)C)=O | C15H21N3O5
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 3.36 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | PtO2 | 0.39 g | O=[Pt]=O
product | N-(3-piperidyl)-3(S)-(tert-butoxycarbonylamino)succinamic acid methyl ester hydrochloride | 3.67 g | Cl.COC(C[C@@H](C(=O)NC1CNCCC1)NC(=O)OC(C)(C)C)=O | InChI=1S/C15H27N3O5.ClH/c1-15(2,3)23-14(21)18-11(8-12(19)22-4)13(20)17-10-6-5-7-16-9-10;/h10-11,16H,5-9H2,1-4H3,(H,17,20)(H,18,21);1H/t10?,11-;/m0./s1
